US06638929B2
A mixture of 1.0 g (3.53 mmol) of 4-chloro-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile, 0.93 g (3.88 mmol) of 3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamine and 0.41 g (3.52 mmol) of pyridine hydrochloride in 20 mL of 2-ethoxyethanol is heated at 120° C. for 2 hours, then cooled to room temperature. The product mixture is diluted with a saturated solution of sodium carbonate, stirred for 15 minutes and the solid is collected by filtration. The solid is washed with water and dried in vacuo. The crude product is purified by silica gel chromatography, utilizing a 95:5 to 9:1 gradient of methylene chloride/methanol to give 1.13 g of 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile as a yellow solid, mp>300° C.

reactant | 4-chloro-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile | 3.53 mmol, 1.0 g | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)O)OC)C#N | C15H9ClN2O2
reactant | 3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamine | 3.88 mmol, 0.93 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)N | C10H10ClN3S
reactant | pyridine hydrochloride | 3.52 mmol, 0.41 g | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 20 mL | C(C)OCCO | C4H10O2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-[3-chloro-4-(1-methyl-1H-imidazol-2-ylsulfanyl)phenylamino]-8-hydroxy-7-methoxybenzo[g]quinoline-3-carbonitrile | 1.13 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)O)OC)C#N | C25H18ClN5O2S
